US07696243B2
Intermediate 1.3: 1-cyclohexylprop-2-en-1-one
To the stirring solution of N-methyl-N-methoxy-cyclohexanecarboxamide (0.05 mol, 8.5 g) in 150 ml anhydrous THF at −10-0° C. (ice-NaCl bath) the solution of vinyl magnesium bromide (1M in THF, 0.1 mol, 100 ml) was added dropwise. The resulting mixture was stirred at 0° C. for 1 h (white solid formed), then at rt for 4 h (the solid dissolved). The resulting solution was added slowly by cannula into a well-cooled Erlenmeyer flask equipped with magnetic stirrer and thermometer, containing 0.5 L saturated aqueous NH4Cl, with such speed that the temperature stays between 0° C. and +10° C., at vigorous stirring. At higher temperatures oligomerization of the product occurs. The phases were separated; the aqueous one extracted with EtOAc (3×100 ml), and the combined organic extracts were washed with sat. aq. NH4Cl until pH<7 (5×50 ml, carefully removing all the N,O-dimethylhydroxylamine product), then washed with brine (100 ml), dried with Na2SO4, and concentrated under vacuum >80 mbar (taking care not to evaporate the volatile product). Yield 11.8 g of yellow oil containing pure vinylcyclohexylketone. Used in the next reaction without purification as 0.05 mol. 1H NMR (400 MHz, CDCl3) δ 6.41 (dd, 1H, 17.5 Hz, 10.3 Hz, Z—H—CH═C), 6.25 (dd, 1H, 17.5 Hz, 1.4 Hz, E-H—CH═C), 5.74 (dd, 1H, 10.3 Hz, 1.4 Hz, CO—CH═C), 2.60 (m, 1H, cyclohexyl CH—CO), 1.9-1.7 (m, 3H, cyclohexyl), 1.7-1.5 (m, 2H, cyclohexyl), 1.4-1.2 (m, 5H, cyclohexyl).

reactant | N-methyl-N-methoxy-cyclohexanecarboxamide | 0.05 mol, 8.5 g | CN(C(=O)C1CCCCC1)OC | C9H17NO2
reactant | vinyl magnesium bromide | 0.1 mol, 1M, 100 ml | C(=C)[Mg]Br
reactant | NH4Cl | 0.5 L | [NH4+].[Cl-]
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | 1-cyclohexylprop-2-en-1-one | C1(CCCCC1)C(C=C)=O | C9H14O
